US03992431
2.5 grams of N,N-dimethyl-1,3-propane diamine was added to a coldsolution of 5 grams 1-adamantane carboxylic acid chloride in 15cc benzene. An immediate precipitate formed. The mixture was stirred and permitted to sit for 30 minutes. The precipitate was washed with benzene several times,centrifuged, and dried in vacuum, yielding 5 grams of N-(3-dimethylaminopropyl) adamantane 1-carboxamide hydrochloride having a melting point of 154°-157° C. This product was dissolved in 150cc acetone, placed in a refrigerator for crystal growth and 4.8 gms of the product was recovered.

reactant | N,N-dimethyl-1,3-propane diamine | 2.5 grams | CN(CCCN)C | C5H14N2
reactant | 1-adamantane carboxylic acid chloride | 5 grams | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | benzene | 15cc | C1=CC=CC=C1 | C6H6
product | N-(3-dimethylaminopropyl) adamantane 1-carboxamide hydrochloride | 5 grams | Cl.CN(CCCNC(=O)C12CC3CC(CC(C1)C3)C2)C | InChI=1S/C16H28N2O.ClH/c1-18(2)5-3-4-17-15(19)16-9-12-6-13(10-16)8-14(7-12)11-16;/h12-14H,3-11H2,1-2H3,(H,17,19);1H
